US09382188B2
sodium 3-cyclopropyl-3-(3-(((6-(2,2-dimethylpropyl)-5-(2-fluoro-5-methoxyphenyl)pyridin-2-yl)oxy)methyl)phenyl)propanoate
A 28% solution of sodium methoxide (117 mg) in methanol was added to a solution of 3-cyclopropyl-3-(3-(((6-(2,2-dimethylpropyl)-5-(2-fluoro-5-methoxyphenyl)pyridin-2-yl)oxy)methyl)phenyl)propanoic acid (299 mg) in methanol (4.0 mL), and the mixture was stirred at room temperature for 5 min. The reaction mixture was concentrated under reduced pressure to give the title compound (316 mg) as a white amorphous solid.

reactant | sodium methoxide | 117 mg | C[O-].[Na+]
reactant | 3-cyclopropyl-3-(3-(((6-(2,2-dimethylpropyl)-5-(2-fluoro-5-methoxyphenyl)pyridin-2-yl)oxy)methyl)phenyl)propanoic acid | 299 mg | C1(CC1)C(CC(=O)O)C1=CC(=CC=C1)COC1=NC(=C(C=C1)C1=C(C=CC(=C1)OC)F)CC(C)(C)C | C30H34FNO4
solvent | methanol | CO | CH4O
solvent | methanol | 4.0 mL | CO | CH4O
product | sodium 3-cyclopropyl-3-(3-(((6-(2,2-dimethylpropyl)-5-(2-fluoro-5-methoxyphenyl)pyridin-2-yl)oxy)methyl)phenyl)propanoate | 316 mg | C1(CC1)C(CC(=O)[O-])C1=CC(=CC=C1)COC1=NC(=C(C=C1)C1=C(C=CC(=C1)OC)F)CC(C)(C)C.[Na+] | InChI=1S/C30H34FNO4.Na/c1-30(2,3)17-27-23(25-15-22(35-4)10-12-26(25)31)11-13-28(32-27)36-18-19-6-5-7-21(14-19)24(16-29(33)34)20-8-9-20;/h5-7,10-15,20,24H,8-9,16-18H2,1-4H3,(H,33,34);/q;+1/p-1
